US06890947B2
5.37 g (19.0 mmol) of 5-bromo-4-methyl-1H-indole-2-carboxylic acid ethyl ester were dissolved in 150 ml of dioxane; then, 38.1 ml (38.1 mmol) of a lithium hydroxide solution (1 molar in water) were added and the reaction mixture was stirred for 60 hours at room temperature. After evaporation of the solvents, the residue was dissolved in dichloromethane; water was added and the pH adjusted to pH 2-3; then, the mixture was extracted 3 times with dichloromethane. The combined organic phases were washed with water, dried over magnesium sulfate and evaporated to give 4.82 g of crude 5-bromo-4-methyl-1H-indole-2-carboxylic acid as off-white solid.

reactant | 5-bromo-4-methyl-1H-indole-2-carboxylic acid ethyl ester | 19.0 mmol, 5.37 g | C(C)OC(=O)C=1NC2=CC=C(C(=C2C1)C)Br | C12H12BrNO2
reactant | lithium hydroxide | 38.1 mmol, 1 molar, 38.1 ml | [OH-].[Li+]
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 5-bromo-4-methyl-1H-indole-2-carboxylic acid | 4.82 g | BrC=1C(=C2C=C(NC2=CC1)C(=O)O)C | C10H8BrNO2
